US07776959B2
Synthesis of a Copolymer Comprising beta-Pinene/Methyl Acrylate/Hydroxypropyl Acrylate
A mixture of 38.7% beta-pinene, 25.0% methyl acrylate, 30.7% hydroxypropyl acrylate, 0.8% acrylic acid and 4.8% di-t-butyl peroxide was continuously fed to a 5 gallon continuous stirred tank reactor at a rate calculated to give a average residence time of 20 minutes. The reactor was maintained at a pressure of 500 psig and a temperature of 365° F. The reaction product was continuously pumped to a 30 gallon flash tank maintained at 20% fill level together with di-t-amyl peroxide (4% by weight on reaction product). The contents of the flash tank were maintained at 300° F. The output from the flash tank was mixed with sufficient butyl acetate in a static mixer to reduce the solids content to 81% and drained into storage containers. The reaction was run for a period of 6.5 hours. The resulting resin had a weight average molecular weight of 5000.

reactant | beta-pinene | CC1(C2CCC(=C)C1C2)C | C10H16
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | hydroxypropyl acrylate | C(C=C)(=O)OCCCO | C6H10O3
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | di-t-butyl peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | di-t-amyl peroxide | C(C)(C)(CC)OOC(C)(C)CC | C10H22O2
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | beta-Pinene Methyl Acrylate Hydroxypropyl Acrylate | CC1(C2CCC(=C)C1C2)C.C(C=C)(=O)OC.C(C=C)(=O)OCCCO | InChI=1S/C10H16.C6H10O3.C4H6O2/c1-7-4-5-8-6-9(7)10(8,2)3;1-2-6(8)9-5-3-4-7;1-3-4(5)6-2/h8-9H,1,4-6H2,2-3H3;2,7H,1,3-5H2;3H,1H2,2H3
